US07358376B2
b) 2-Amino-5-(2-pyridyl)-3-thiophenecarboxamide
2-(2-Methoxyvinyl)pyridine (1.28 g) was dissolved in ethanol (13 ml) and to the solution was added 6M sulphuric acid (3.6 ml). The solution was heated to 80° C. for 20 minutes then allowed to cool to 55° C. Morpholine (8 ml) was added followed by cyanoacetamide (0.796 g) and sulfur (0.334 g). The mixture was heated at 55° C. for 4 h. After cooling to room temperature the solution was poured into water (100 ml) and extracted with ethyl acetate. The extracts were dried (MgSO4), filtered and evaporated. The residue was adsorbed onto silica gel and eluted with 2-5% methanol in dichloromethane to give an orange solid (345 mg, 17%).

reactant | 2-(2-Methoxyvinyl)pyridine | 1.28 g | COC=CC1=NC=CC=C1 | C8H9NO
reactant | sulphuric acid | 6M, 3.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | Morpholine | 8 ml | N1CCOCC1 | C4H9NO
reactant | cyanoacetamide | 0.796 g | C(#N)CC(=O)N | C3H4N2O
reactant | sulfur | 0.334 g | [S] | S
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-Amino-5-(2-pyridyl)-3-thiophenecarboxamide | 345 mg, 17% | NC=1SC(=CC1C(=O)N)C1=NC=CC=C1 | C10H9N3OS
